Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chief Complaint: "I wanted to stop hiding"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Briefly, ___ is a ___ year old woman with no formal 
psychiatric history who arrived to the ___ per recommendation 
from ___ mental health provider after contacting ___ hotline 
x 2 and endorsing suicidal ideation. On initial and subsequent 
interviews, patient endorsed significant anxiety regarding 
school. Specifically, patient reported that she has been on 
academic probation for most of her college career, and she 
recently received an email from ___ indicating that she was at 
risk for expulsion if she did not achieve a 2.5 GPA at the end 
of this semester. Patient explained, "when I got that email this 
___, I felt very suicidal. I kept thinking about what it 
would be like as an expelled student. I thought to myself, "this 
is it." I've never felt that kind of anxiety. I kept rereading 
the email, and it kept making things worse." She recalled 
contacting the ___ mental health provider and verbalized 
thoughts of hopelessness and feelings of isolation. She recalled 
feeling overwhelmed and unable to be consoled. On interview 
today, she reported that she had never experienced such severe 
anxiety and heightened distress to the point of contemplating 
suicide. However, she adamantly denies ongoing suicidal 
ideation. Explained, "I've been reflective about everything 
since I've been here. I hit rock bottom, and I realized that I 
need help. I haven't given up, but I hope the school hasn't 
given up on me."
.
Expressed willingness to seek additional support/services. Noted 
that she was referred to a therapist when she was at ___ 
___ for similar academic difficulties; described 
longstanding pattern of avoiding schoolwork due to anxiety. 
Explained, "I know I have to do the work, but I just don't do 
it. I don't want to fail, but I'm so scared to actually do it." 
Qualified that she typically excels in non-academic pursuits 
(e.g. internship-style work where much of her evaluation is 
based on interpersonal  or job-related performance). She enjoys 
hospitality which is her major.  She did an internship in ___ a 
few summers ago and did so well that she received a job offer 
from the ___ she worked at.  However, patient stated that she 
wants to obtain a college degree, but "cannot focus." Expressed 
frustration that she is now ___ years old, has been in college 
since end of senior year, and took a couple of gap years for 
complicated family dynamics.  Notable life events relevant to 
current situation are history of trauma/physical abuse while 
living with mother, no psychiatric hospitalizations or 
relationships with providers, pattern of binge 
eating/restricting since ___ years ago with excessive exercise, no 
firm community supports, and complicated family situation.  
Regarding family, patient states that she and her mother are 
actually her father's second family and he is originally from 
___.  Mother and her lived in ___ and they were "hidden".  
Father is a ___ in ___ and mother decided to ___ 
him for inheritance when ___ was ___.  Patient actually 
took a gap year at this point and lived in ___. Then she came 
back to the ___ and went to college.  
.
Regarding disordered eating behavior, notes that she often 
spends time watching TV and binge eating.  Reports that she was 
a ___ until her senior year of high school and at 
times will exercise excessively now.  Reports her weight rapidly 
fluctuates. In the past month, spend a lot of time in room, 
isolative, does go out if there is an occasion with friends.  
Otherwise often avoids problems by "escaping" by watching 
TV/movies. Reported occasionally abusing laxatives; denied 
purging/ diet pill use.  Endorses low energy, substantial guilt 
(for failing school and disappointing others), anxiety, weight 
change, poor sleep, poor concentration (especially concerning 
school work), depressed mood, hopelessness.
 
Past Medical History:
Past psychiatric history absent for any previous psychiatric 
hospitalizations or diagnoses; no previous medication trials. No 
previous suicide attempts or episodes of self-injury. Briefly 
saw counselor affiliated with ___; no current 
providers.
.
Past medical history absent for any acute or chronic illnesses; 
no current medications. No history of head injury, TBI, or 
seizures.
.
Allergies: NKDA

 
Social History:
Substance use history absent for problematic alcohol, tobacco, 
or illicit substance use.
.
Forensic history absent for previous arrests, incarcerations, or 
current charges.
.
Personal and Social History:
___
Family History:
Family psychiatric history absent for any known psychiatric 
hospitalizations or completed suicides.
 
Physical Exam:
VITAL SIGNS:
Temp: 98.1 PO; BP 108/74; HR 99; RR 16; SpO2 98% on RA  

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No 
tenderness to palpation in all quadrants.  No guarding, no 
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 4 to 2mm, both directly and consentually; brisk 
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor 
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty.  Romberg 
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYB with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___ 
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3 
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the early bird gets the worm" as "when 
you work hard, you get what you accomplish"
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation

Mental Status:
-Appearance: age-appearing Asian female, wearing glasses with 
dark thick frames, hair put up in pony tail, well groomed, 
wearing hospital gown, in no apparent distress
-Behavior: Sitting in chair, fair eye contact, looks down 
whenever discussing uncomfortable topics, no psychomotor 
agitation or retardation
-Attitude: Cooperative, engaged, and pleasant
-Mood: "very depressed, can't imagine not going to college"
-Affect: Mood-incongruent, full range, mostly appropriate to 
situation, but labile at times, quickly switching from crying to 
smiling and laughing
-Speech: Hyperverbal, with fast rate, but interruptible; normal 
volume and prosody
-Thought process: mostly linear, coherent, goal-oriented, but 
circumstantial at times
-Thought Content:
---Safety: Denies SI/HI, intent, or plan
---Delusions: No evidence of paranoid delusions, grandiose 
delusions, persecutory delusions, delusions of reference, or 
delusions of thought insertion, withdrawal, or broadcasting
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
-Insight: Limited
-Judgment: Limited
 
Pertinent Results:
___ 06:50AM BLOOD WBC-5.8 RBC-4.25 Hgb-13.4 Hct-40.4 MCV-95 
MCH-31.5 MCHC-33.2 RDW-12.1 RDWSD-41.9 Plt ___
___ 06:50AM BLOOD Glucose-101* UreaN-20 Creat-0.8 Na-145 
K-4.4 Cl-104 HCO3-22 AnGap-19*
___ 06:50AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 09:49AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  She was placed on 15 minute checks 
status on admission (least restrictive level of monitoring) and 
remained on that level of observation throughout while being 
unit restricted.
.
2. PSYCHIATRIC:
#) GAD 
Patient presented to the unit complaining of several months' 
worsening anxiety with poor concentration, insomnia, 
binge-eating behavior (see below) and isolativeness in the 
setting of poor academic performance with threat of expulsion, 
resulting in feelings of hopelessness and the development of 
passive suicidal ideation.  After a discussion of the risks and 
benefits, she was started on Prozac 20 mg PO daily as well as 
Ativan 0.5 mg PO BID PRN through which rumination, sleep, and 
ability to engage with peers and treaters improved.  The patient 
consistently demonstrated future-oriented view with ability to 
participate in discharge planning, advocating for partial 
hospitalization in ___ followed by continuation of individual 
therapy at home in ___ on medical leave.  She reported 
global improvement in her symptoms by time of discharge denying 
SI or safety concerns.
.
#) Binge-eating disorder
Patient endorsed binge-eating behavior as well as surreptitious 
laxative use practiced as a means of coping with anxiety and 
stress.  She reported that the use of anxiolytic medication, 
above, as well as participation in group and individual 
therapies through which she practiced mindfulness and cultivated 
alternative coping skills, were helpful in decreasing urges to 
binge.  
.
#) PTSD
Patient endorsed history of familial trauma characterized by 
emotional and life-threatening physical abuse.  She reported an 
interest in pursuing trauma-focused therapy on discharge from 
the hospital feeling better empowered to discuss past 
experiences due to improvement in anxiety as above as well as 
show of support by friends who had visited while on the unit.
.
3. SUBSTANCE USE DISORDERS:
#) Patient denied use of tobacco, alcohol, marijuana, and 
illicits.
.
4. MEDICAL
#) Patient denied chronic or acute medical issues.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:
The patient actively participated in the various groups and 
milieu therapy opportunities offered by the unit.  She was noted 
to be pleasant, cooperative, and compliant with care, sociable 
with staff and peers.
.
#) INTERVENTIONS
- Medications: Prozac 20 mg PO daily, Ativan 0.5 mg PO BID PRN 
anxiety/insomnia.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Referral to local PHP, referral to 
therapist/prescribers.
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
Encouraged mindfulness and practice of alternative coping 
mechanisms as above.
.
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Prozac and Ativan, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
hopelessness and passive suicidal ideation in the setting.  Her 
static factors noted at that time include age and history of 
trauma and abuse; modifiable risk factors, including social 
isolation, suicidal ideation, anxiety, academic stressors, and 
lack of outpatient treaters, were addressed through the 
initiation of psychotropic medications, involvement of social 
supports in hospitalization and aftercare, referral to 
providers, coordination with the school to facilitate medical 
leave, and individual and group therapies to cultivate coping 
skills.   Finally, the patient is being discharged with many 
factors protective against self-harm, including future- and 
goal-oriented thinking, motivation to engage in treatment, and 
medication compliance.  Based on the totality of our assessment 
at this time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  FLUoxetine 20 mg PO DAILY 
Take one tab daily through ___ take 2 tabs daily beginning ___. 

RX *fluoxetine 20 mg 1 tablet(s) by mouth daily Disp #*50 Tablet 
Refills:*0 

2.  LORazepam 0.5 mg PO BID PRN anxiety, insomnia 
RX *lorazepam 0.5 mg 1 tab by mouth BID PRN Disp #*14 Tablet 
Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GAD
PTSD
Binge-eating disorder

 
Discharge Condition:
VS: T 97.7 | BP 120/80 | HR 96 | RR 16 | SpO2 99% RA
Appearance: Age-appearing Asian woman with glasses with
dark thick frames, hair in pony tail, adequately groomed, in no
apparent distress
Behavior: sitting in chair, appropriate eye contact, no
psychomotor agitation or retardation
Attitude: cooperative, engaged, and pleasant
Mood and Affect: 'better', slightly anxious, full range affect
Speech: normal volume, slightly fast rate, normal tone
Thought process: linear, coherent, goal-oriented, no loose
associations
Thought Content: no evidence of SI/HI/AVH, no paranoia or
delusions, does not appear to be attending to internal stimuli
Judgment and Insight: improved

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___